US09334278B2
To a solution of N-tert-butyl-2-(pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (44 mg, 99.9 mol) in dichloromethane (1.6 mL) was added trifluoroacetic acid (228 mg, 154 μL, 2.00 mmol) and the reaction mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (1.6 mL), methanol (0.8 mL) and ammonium hydroxide (0.2 mL) and stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether to give N-tert-butyl-2-(pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (24 mg, 77.3 mol, 77%) as a brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.26 (s, 1H), 9.54 (s, 1H), 8.77 (d, J=2.5, 1 H), 8.04 (d, J=4.6, 1 H), 7.98 (d, J=8.5, 1 H), 7.92 (d, J=3.3, 1 H), 7.91 (s, 1H), 7.57 (s, 1H), 7.19 (m, 1H), 1.31 (s, 9H); MS (EI/CI) m/z: 311.1 [M+H].

reactant | N-tert-butyl-2-(pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 99.9 mol, 44 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC=CC2)COCC[Si](C)(C)C | C22H32N6O2Si
reactant | trifluoroacetic acid | 2.00 mmol, 154 μL, 228 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
solvent | methanol | 0.8 mL | CO | CH4O
solvent | ammonium hydroxide | 0.2 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 77.3 mol, 24 mg, 77% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC=CC2 | C16H18N6O
